US07842685B2
To a slurry of sodium hydride (0.206 g, 5.14 mmol) in 7 mL DMF was added diethyl malonate (0.690 mL, 4.57 mmol) dropwise via syringe (bubbling). After 3 min, the reaction mixture was clear, and solid 2-(4-(3-bromo-2-(bromomethyl)propyl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (0.640 g, 1.14 mmol) was added, the reaction mixture was sealed, and heated to 100° C. After 1 h, the reaction mixture was partitioned between sat'd aq. NH4Cl and EtOAc. The org layer was washed with water, brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The resulting material was purified by silica gel chromatography, EA/hexanes gradient, to give diethyl 3-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)cyclobutane-1,1-dicarboxylate as a white solid. MS (ESI) m/z: calculated: 558.2; Observed: 559.1 (M++1).

reactant | sodium hydride | 5.14 mmol, 0.206 g | [H-].[Na+]
reactant | diethyl malonate | 4.57 mmol, 0.690 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-(4-(3-bromo-2-(bromomethyl)propyl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 1.14 mmol, 0.640 g | BrCC(CC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F)CBr | C25H21Br2FN2S
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | diethyl 3-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)cyclobutane-1,1-dicarboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CC1CC(C1)(C(=O)OCC)C(=O)OCC | C32H31FN2O4S
